US07915443B2
5-Phenylethynyl-nicotinic acid
To a solution of 5-phenylethynyl-nicotinic acid ethyl ester (1.17 g, 4.64 mmol) in methanol (10 mL) was added 5 N aqueous sodium hydroxide (2 mL, 10 mmol). The mixture was stirred at room temperature for approximately 20 h, before the reaction mixture was diluted with water (3 mL) and extracted with hexanes/EtOAc (95/5) (10 mL). The aqueous solution was acidified with 1 N HCl to pH 4. The white precipitate that formed was collected by filtration, washed with water (2 mL), and dried under vacuum to provide the title compound as a white solid (987 mg, yield 95%). 1H NMR (300 MHz, d6-DMSO) δ 9.02 (d, J=1.8 Hz, 1H), 8.94 (d, J=2.4 Hz, 1H), 8.34 (dd, J=1.8, 2.4 Hz, 1H), 7.63-7.60 (m, 2H), 7.48-7.44 (m, 3H); ESI-MS m/z 223.9 (M+H)+.

reactant | 5-phenylethynyl-nicotinic acid ethyl ester | 4.64 mmol, 1.17 g | C(C)OC(C1=CN=CC(=C1)C#CC1=CC=CC=C1)=O | C16H13NO2
reactant | sodium hydroxide | 10 mmol, 5 N, 2 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 5-Phenylethynyl-nicotinic acid | 987 mg, yield 95% | C1(=CC=CC=C1)C#CC=1C=NC=C(C(=O)O)C1 | C14H9NO2
